US04126689
to a stirred mixture of 4.4 parts of 1-(1-methylethyl)-N-phenyl-4-piperidinamine, 5.3 parts of sodium carbonate and 180 parts of benzene are added dropwise 5 parts of benzeneacetyl chloride. Upon completion, stirring is continued overnight at reflux. The reaction mixture is cooled, washed successively with water, a sodium hydrogen carbonate solution and again with water, dried, filtered and evaporated. The residue is converted into the hydrochloride salt in 2,2'-oxybispropane and 2-propanol. The formed salt is filtered off and crystallized from a mixture of 2-propanol and 2,2'-oxybispropane, yielding 2.5 parts of N-[1-(1-methylethyl)-4-piperidinyl]-N-phenylbenzeneacetamide hydrochloride; mp. 184.4° C.

reactant | 1-(1-methylethyl)-N-phenyl-4-piperidinamine | CC(C)N1CCC(CC1)NC1=CC=CC=C1 | C14H22N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzeneacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-[1-(1-methylethyl)-4-piperidinyl]-N-phenylbenzeneacetamide hydrochloride | Cl.CC(C)N1CCC(CC1)N(C(CC1=CC=CC=C1)=O)C1=CC=CC=C1 | InChI=1S/C22H28N2O.ClH/c1-18(2)23-15-13-21(14-16-23)24(20-11-7-4-8-12-20)22(25)17-19-9-5-3-6-10-19;/h3-12,18,21H,13-17H2,1-2H3;1H
